US09169212B2
To a mixture of tert-butyl N-but-3-enylcarbamate (3.16 g, 18.42 mmol, 1.30 Eq) in THF (20 mL), was added n-BuLi (2.5 M, 14.74 mL, 2.60 Eq) at −78° C. under N2. The mixture was stirred at −20° C. for 1 hr. Then 1-chloro-3-(triphenyl phosphoranylidene)propan-2-one (5.00 g, 14.17 mmol, 1.00 Eq) in THF (20 mL) was added to the mixture at −78° C. under N2. The mixture was stirred at −20° C. for 3 hr. The resulting mixture was poured into water (30 mL) and stirred for 20 min. The aqueous phase was extracted with EA (10 mL). The combined organic phase was washed with saturated brine (20 mL*2), dried with anhydrous Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography (PE/EA=1/1) to afford tert-butyl but-3-en-1-yl(2-oxo-3-(triphenylphosphoranylidene)propyl)carbamate (5.80 g, 11.90 mmol, 83.98% yield) as yellow solid.

reactant | tert-butyl N-but-3-enylcarbamate | 18.42 mmol, 3.16 g, 1.30 Eq | C(CC=C)NC(OC(C)(C)C)=O | C9H17NO2
reactant | n-BuLi | 2.5 M, 14.74 mL, 2.60 Eq | [Li]CCCC
reactant | 1-chloro-3-(triphenyl phosphoranylidene)propan-2-one | 14.17 mmol, 5.00 g, 1.00 Eq | ClCC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18ClOP
reactant | water | 30 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl but-3-en-1-yl(2-oxo-3-(triphenylphosphoranylidene)propyl)carbamate | 11.90 mmol, 5.80 g, 83.98% yield | C(CC=C)N(C(OC(C)(C)C)=O)CC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H34NO3P
